US03965167
A solution of concentrated ammonium hydroxide (52 ml., 0.78 mole) and 20 ml. water is added in 10 minutes to a stirred mixture of N-acetyl-L-cysteine (114.2 g., 0.7 mole) in 1.2 liters of isopropanol under an atmosphere of nitrogen. During the addition the mixture thickens and the temperature increases to 35°C. The mixture is stirred overnight, collected and washed with isopropanol to yield 110 g. (87%) of product having a melting point of 156°-158°C. (dec.) (uncorr.). Crystallization of this product from water-isopropanol with cooling to -10°C. provides analytically pure N-acetyl-L-cysteine ammonium salt, M.P. 147.5°-150°C. (dec.) (corr.); [ α ]D25 + 20.6°(c 5,H2O).

reactant | ammonium hydroxide | 0.78 mole, 52 ml | [OH-].[NH4+]
reactant | water | O | H2O
reactant | N-acetyl-L-cysteine | 0.7 mole, 114.2 g | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
solvent | isopropanol | 1.2 liters | C(C)(C)O | C3H8O
product | N-acetyl-L-cysteine ammonium salt | [NH4+].C(C)(=O)N[C@@H](CS)C(=O)[O-] | InChI=1S/C5H9NO3S.H3N/c1-3(7)6-4(2-10)5(8)9;/h4,10H,2H2,1H3,(H,6,7)(H,8,9);1H3/t4-;/m0./s1
